US07465726B2
(5-Bromo-2-iodo-1H-pyrrolo[2,3-b]pyridin-4-yl)-(1H-indazol-5-yl)-amine
To a slurry of a mixture of 1-benzenesulfonyl-5-bromo-4-chloro-2-iodo-1H-pyrrolo[2,3-b]pyridine and 5-bromo-4-chloro-2-iodo-1-(2-iodobenzenesulfonyl)-1H-pyrrolo[2,3-b]pyridine (560 mg, 1.0 mmol) in trifluoroethanol (6 mL) was added trifluoroacetic acid (0.041 mL, 0.52 mmol) and indazole (266 mg, 2.0 mmol), and the reaction was heated in a sealed tube at 120° C. for 4 d. Additional indazole (67 mg, 0.5 mmol) was added twice to the reaction on the second and third days. The reaction was cooled to RT, diluted with methanol (20 mL), saturated sodium bicarbonate solution was added (1 mL) and evaporated to dryness under reduced pressure. The residue obtained was triturated with methanol:DCM (1:1) mixture and filtered. The filtrate was evaporated and the crude obtained was purified by chromatography on silica gel [Jones Flashmaster, 70 g/150 mL cartridge, eluting with DCM:Methanol 100:0→96:4], yielding the product, which was triturated with 4:1 methanol:DCM mixture and filtered. The precipitate obtained was dried under vacuum to afford the title compound as an off-white solid. The low polar fractions from the column were combined, evaporated and the residue was stirred with 3N NaOH in methanol (2 mL) for 30 min and quenched with saturated ammonium chloride solution (2 mL). Water (10 mL) was added and filtered to afford additional title compound. MS (ES+): m/z 453.63 (100) [MH+]; HPLC: tR=2.58 min (ZQ2000, polar—5 min).

reactant | 1-benzenesulfonyl-5-bromo-4-chloro-2-iodo-1H-pyrrolo[2,3-b]pyridine | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2Cl)Br)I | C13H7BrClIN2O2S
reactant | 5-bromo-4-chloro-2-iodo-1-(2-iodobenzenesulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1.0 mmol, 560 mg | BrC=1C(=C2C(=NC1)N(C(=C2)I)S(=O)(=O)C2=C(C=CC=C2)I)Cl | C13H6BrClI2N2O2S
reactant | trifluoroacetic acid | 0.52 mmol, 0.041 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | indazole | 2.0 mmol, 266 mg | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | indazole | 0.5 mmol, 67 mg | N1N=CC2=CC=CC=C12 | C7H6N2
solvent | trifluoroethanol | 6 mL | C(C(F)(F)F)O | C2H3F3O
solvent | methanol | 20 mL | CO | CH4O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (5-Bromo-2-iodo-1H-pyrrolo[2,3-b]pyridin-4-yl)-(1H-indazol-5-yl)-amine | BrC=1C(=C2C(=NC1)NC(=C2)I)NC=2C=C1C=NNC1=CC2 | C14H9BrIN5
